US07592477B2
Step a) Formation of N-[4-(octyloxy)benzyl]-N-[2-(trifluoromethyl)benzyl]amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-(octyloxy)benzaldehyde and 2-(trifluoromethyl)benzylamine gave the title compound as an oil. HPLC (Condition A), Rt: 4.24 min (HPLC purity: 91.0%).

reactant | 4-(octyloxy)benzaldehyde | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
reactant | 2-(trifluoromethyl)benzylamine | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
product | N-[4-(octyloxy)benzyl]-N-[2-(trifluoromethyl)benzyl]amine | C(CCCCCCC)OC1=CC=C(CNCC2=C(C=CC=C2)C(F)(F)F)C=C1 | C23H30F3NO
